US09193744B2
1-(Pyridin-4-yl)-5,7,8,9-tetrahydro-1H-spiro[cyclohepta[f]indazole-6,2′-[1,3]dioxolane] (31.8 g, 99 mmol) and 4-methylbenzenesulfonic acid hydrate (23.8 g, 125 mmol) were added to a round bottom flask followed by the addition of acetone (250 mL). The mixture was heated to about 60° C. for about 2 h, then about 45° C. for about 16 h. The reaction mixture was cooled to rt, filtered and the resulting solids were collected. The solids were taken into EtOAc/MeOH and neutralized with sat. aq. NaHCO3. The mixture was extracted with EtOAc (3×100 mL) and any solids that would not dissolve were collected. The organics were dried over MgSO4 and concentrated in vacuo. The collected solids and extracted material were combined to provided 1-(pyridin-4-yl)-5,7,8,9-tetrahydrocyclohepta[f]indazol-6(1H)-one (26.2 g, 95%); LC/MS, method 1, Rt=1.25 min MS m/z 278 (M+H)+, 1H NMR (400 MHz, DMSO) δ 8.73-8.68 (m, 2H), 8.43-8.41 (m, 1H), 8.03 (s, 1H), 7.95-7.90 (m, 2H), 7.73 (s, 1H), 3.19 (d, J=5.5 Hz, 2H), 3.17 (d, J=4.1 Hz, 2H), 2.54-2.48 (m, 2H), 2.00-1.87 (m, 2H).

reactant | 1-(Pyridin-4-yl)-5,7,8,9-tetrahydro-1H-spiro[cyclohepta[f]indazole-6,2′-[1,3]dioxolane] | 99 mmol, 31.8 g | N1=CC=C(C=C1)N1N=CC2=CC3=C(C=C12)CCCC1(OCCO1)C3 | C19H19N3O2
reactant | 4-methylbenzenesulfonic acid hydrate | 125 mmol, 23.8 g | O.CC1=CC=C(C=C1)S(=O)(=O)O
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 1-(pyridin-4-yl)-5,7,8,9-tetrahydrocyclohepta[f]indazol-6(1H)-one | 26.2 g, 95% | N1=CC=C(C=C1)N1N=CC2=CC3=C(C=C12)CCCC(C3)=O | C17H15N3O
